US04100184
5-Cyanomethyl-2-oxo-cyclopentanecarboxylic acid methyl ester (100 mg, 0.58 mmol) and allyl bromide (121 mg, 1 mmol) were dissolved in acetone (5ml). Potassium carbonate (138 mg, 1 mmol) was added to the solution. The mixture was heated under refluxing with stirring for 5 hours and then was cooled and was filtered. The filtrate was concentrated under a reduced pressure. The residue was purified by a silica gel column chromatography (ethyl acetate: n-hexane=1: 4) to obtain 89 mg of 1-allyl-5-cyanomethyl-2-oxo-cyclopentanecarboxylic acid methyl ester as viscous oily product. Yield: 69%. Infrared spectrum(cm-1): 2235, 1755, 1730, 1640, 925. NMR spectrum (CDCl3) δ : 1.60 - 3.05 (m, 9H), 3.73 (s, 3H), 4.88 - 6.07 (m, 3H).

reactant | 5-Cyanomethyl-2-oxo-cyclopentanecarboxylic acid methyl ester | 0.58 mmol, 100 mg | COC(=O)C1C(CCC1CC#N)=O | C9H11NO3
reactant | allyl bromide | 1 mmol, 121 mg | C(C=C)Br | C3H5Br
reactant | Potassium carbonate | 1 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 5ml | CC(=O)C | C3H6O
product | 1-allyl-5-cyanomethyl-2-oxo-cyclopentanecarboxylic acid methyl ester | 89 mg, Yield: 69% | COC(=O)C1(C(CCC1CC#N)=O)CC=C | C12H15NO3
